### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/LinearDisjoint): definition and properties of linearly disjoint of submodules

### PR DESCRIPTION
**Pull request by acmepjz**
This is part 1 of #9651.

We adapt the definitions in <https://en.wikipedia.org/wiki/Linearly_disjoint>.
Let `R` be a commutative ring, `S` be an `R`-algebra (not necessarily commutative).
Two `R`-submodules `M` and `N` in `S` are linearly disjoint,
if the natural `R`-linear map `M ⊗[R] N →ₗ[R] S` (`Submodule.mulMap M N`)
induced by the multiplication in `S` is injective.

The following is the first equivalent characterization of linearly disjointness:

- `Submodule.LinearDisjoint.linearIndependent_left_of_flat`:
  if `M` and `N` are linearly disjoint, if `N` is a flat `R`-module, then for any family of
  `R`-linearly independent elements `{ m_i }` of `M`, they are also `N`-linearly independent,
  in the sense that the `R`-linear map from `ι →₀ N` to `S` which maps `{ n_i }`
  to the sum of `m_i * n_i` (`Submodule.mulLeftMap N m`) is injective.

- `Submodule.LinearDisjoint.of_basis_left`:
  conversely, if `{ m_i }` is an `R`-basis of `M`, which is also `N`-linearly independent,
  then `M` and `N` are linearly disjoint.

Dually, we have:

- `Submodule.LinearDisjoint.linearIndependent_right_of_flat`:
  if `M` and `N` are linearly disjoint, if `M` is a flat `R`-module, then for any family of
  `R`-linearly independent elements `{ n_i }` of `N`, they are also `M`-linearly independent,
  in the sense that the `R`-linear map from `ι →₀ M` to `S` which maps `{ m_i }`
  to the sum of `m_i * n_i` (`Submodule.mulRightMap M n`) is injective.

- `Submodule.LinearDisjoint.of_basis_right`:
  conversely, if `{ n_i }` is an `R`-basis of `N`, which is also `M`-linearly independent,
  then `M` and `N` are linearly disjoint.

The following is the second equivalent characterization of linearly disjointness:

- `Submodule.LinearDisjoint.linearIndependent_mul_of_flat`:
  if `M` and `N` are linearly disjoint, if one of `M` and `N` is flat, then for any family of
  `R`-linearly independent elements `{ m_i }` of `M`, and any family of
  `R`-linearly independent elements `{ n_j }` of `N`, the family `{ m_i * n_j }` in `S` is
  also `R`-linearly independent.

- `Submodule.LinearDisjoint.of_basis_mul`:
  conversely, if `{ m_i }` is an `R`-basis of `M`, if `{ n_i }` is an `R`-basis of `N`,
  such that the family `{ m_i * n_j }` in `S` is `R`-linearly independent,
  then `M` and `N` are linearly disjoint.

Other results:

- `Submodule.LinearDisjoint.symm_of_commute`, `Submodule.linearDisjoint_symm_of_commute`:
  linearly disjoint is symmetric under some commutative conditions.

- `Submodule.linearDisjoint_op`:
  linearly disjoint is preserved by taking multiplicative opposite.

- `Submodule.LinearDisjoint.of_le_left_of_flat`, `Submodule.LinearDisjoint.of_le_right_of_flat`,
  `Submodule.LinearDisjoint.of_le_of_flat_left`, `Submodule.LinearDisjoint.of_le_of_flat_right`:
  linearly disjoint is preserved by taking submodules under some flatness conditions.

- `Submodule.LinearDisjoint.of_linearDisjoint_fg_left`,
  `Submodule.LinearDisjoint.of_linearDisjoint_fg_right`,
  `Submodule.LinearDisjoint.of_linearDisjoint_fg`:
  conversely, if any finitely generated submodules of `M` and `N` are linearly disjoint,
  then `M` and `N` themselves are linearly disjoint.

- `Submodule.LinearDisjoint.bot_left`, `Submodule.LinearDisjoint.bot_right`:
  the zero module is linearly disjoint with any other submodules.

- `Submodule.LinearDisjoint.one_left`, `Submodule.LinearDisjoint.one_right`:
  the image of `R` in `S` is linearly disjoint with any other submodules.

- `Submodule.LinearDisjoint.of_left_le_one_of_flat`,
  `Submodule.LinearDisjoint.of_right_le_one_of_flat`:
  if a submodule is contained in the image of `R` in `S`, then it is linearly disjoint with
  any other submodules, under some flatness conditions.

- `Submodule.LinearDisjoint.not_linearIndependent_pair_of_commute_of_flat`,
  `Submodule.LinearDisjoint.rank_inf_le_one_of_commute_of_flat`:
  if `M` and `N` are linearly disjoint, if one of `M` and `N` is flat, then any two commutative
  elements contained in the intersection of `M` and `N` are not `R`-linearly independent (namely,
  their span is not `R ^ 2`). In particular, if any two elements in the intersection of `M` and `N`
  are commutative, then the rank of the intersection of `M` and `N` is at most one.

- `Submodule.LinearDisjoint.rank_le_one_of_commute_of_flat_of_self`:
  if `M` and itself are linearly disjoint, if `M` is flat, if any two elements in `M`
  are commutative, then the rank of `M` is at most one.

The results with name containing "of_commute" also have corresponding specified versions
assuming `S` is commutative.

---

discussion: <https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Linearly.20disjoint>

- [x] depends on: #12498

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/LinearDisjoint.lean [hunk 1]
```diff
@@ -0,0 +1,729 @@
...
+  rintro _ ⟨x, rfl⟩
+  induction x using TensorProduct.induction_on with
+  | zero => rw [_root_.map_zero]; exact zero_mem _
+  | tmul a b => exact mul_mem_mul a.2 b.2
+  | add a b ha hb => rw [_root_.map_add]; exact add_mem ha hb
+
+/-- If `M` and `N` are submodules in an algebra `S` over `R`, there is the natural map
+`M ⊗[R] N →ₗ[R] M * N` induced by multiplication in `S`,
+which is surjective (`Submodule.mulMap'_surjective`). -/
+def mulMap' := (LinearEquiv.ofEq _ _ (mulMap_range M N)).toLinearMap ∘ₗ (mulMap M N).rangeRestrict
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/LinearDisjoint.lean:183]:
```suggestion
def mulMap' : M ⊗[R] N →ₗ[R] ↥(M * N) :=
  (LinearEquiv.ofEq _ _ (mulMap_range M N)).toLinearMap ∘ₗ (mulMap M N).rangeRestrict
```
Does this work?

File: Mathlib/LinearAlgebra/LinearDisjoint.lean [hunk 2]
```diff
@@ -0,0 +1,729 @@
...
+
+@[simp]
+theorem coe_mulMap'_tmul (m : M) (n : N) : (mulMap' M N (m ⊗ₜ[R] n) : S) = m.1 * n.1 := rfl
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/LinearDisjoint.lean:186]:
```suggestion
theorem val_mulMap'_tmul (m : M) (n : N) : (mulMap' M N (m ⊗ₜ[R] n) : S) = m.1 * n.1 := rfl
```

File: Mathlib/LinearAlgebra/LinearDisjoint.lean [hunk 3]
```diff
@@ -0,0 +1,729 @@
...
+
+theorem mulMap'_surjective : Function.Surjective (mulMap' M N) := by
+  simp_rw [mulMap', LinearMap.coe_comp, LinearEquiv.coe_coe, EquivLike.comp_surjective,
+    LinearMap.surjective_rangeRestrict]
+
+/-- If `N` is a submodule in an algebra `S` over `R`, there is the natural map
+`i(R) ⊗[R] N →ₗ[R] N` induced by multiplication in `S`, here `i : R → S` is the structure map. -/
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/LinearDisjoint.lean:193]: Please mention `lTensorOne` in the docstring.
(Something like "This is promoted to an equiv as `lTensorOne`. Use that instead.")

File: Mathlib/LinearAlgebra/LinearDisjoint.lean [hunk 4]
```diff
@@ -0,0 +1,729 @@
...
+theorem lTensorOne_apply
+    (y : R) {hy : algebraMap R S y ∈ (1 : Submodule R S)}
+    (n : N) : N.lTensorOne (⟨algebraMap R S y, hy⟩ ⊗ₜ[R] n) = y • n :=
+  N.lTensorOne'_apply y n
+
+theorem lTensorOne_symm_apply (n : N) :
+    N.lTensorOne.symm n = ⟨1, one_le.1 (le_refl _)⟩ ⊗ₜ[R] n := rfl
+
+/-- If `M` is a submodule in an algebra `S` over `R`, there is the natural map
+`M ⊗[R] i(R) →ₗ[R] M` induced by multiplication in `S`, here `i : R → S` is the structure map. -/
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/LinearDisjoint.lean:222]: Same here.

**Review by erdOne — COMMENTED** [review]
I've reviewed up to `end mulMap` (L297). I think everything until that point can go into a new file `Mathlib.LinearAlgebra.TensorProduct.Submodule`. And it will probably be merged sooner if it is split into a separate PR.

File: Mathlib/LinearAlgebra/LinearDisjoint.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/LinearAlgebra/LinearDisjoint.lean:183]: In general please add a type ascription if possible and add a note explaining the reason otherwise.

**Comment by acmepjz** [comment]
> I've reviewed up to `end mulMap` (L297). I think everything until that point can go into a new file `Mathlib.LinearAlgebra.TensorProduct.Submodule`. And it will probably be merged sooner if it is split into a separate PR.

Added as #12498. Maybe some proof in this PR can be golfed since I added `mulLeftMap_eq_mulRightMap_of_commute` etc. in that PR.

File: Mathlib/LinearAlgebra/LinearDisjoint.lean [hunk 5]
```diff
@@ -0,0 +1,550 @@
...
+/-- Linearly disjoint is symmetric if elements in the module commute. -/
+theorem linearDisjoint_symm_of_commute
+    (hc : ∀ (m : M) (n : N), Commute m.1 n.1) : M.LinearDisjoint N ↔ N.LinearDisjoint M :=
+  ⟨fun H ↦ H.symm_of_commute hc, fun H ↦ H.symm_of_commute fun _ _ ↦ (hc _ _).symm⟩
+
+namespace LinearDisjoint
+
+variable (M N)
+
+theorem of_map_linearIndependent_left' {ι : Type*} (m : Basis ι R M)
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/LinearDisjoint.lean:177]: I think the name should mention `Basis` instead of `linearIndependent`.

File: Mathlib/LinearAlgebra/LinearDisjoint.lean [hunk 6]
```diff
@@ -0,0 +1,550 @@
...
+theorem of_one_left : (1 : Submodule R S).LinearDisjoint N := by
+  rw [linearDisjoint_iff, mulMap_one_left_eq]
+  exact N.injective_subtype.comp N.lTensorOne.injective
+
+theorem of_one_right : M.LinearDisjoint (1 : Submodule R S) := by
+  rw [linearDisjoint_iff, mulMap_one_right_eq]
+  exact M.injective_subtype.comp M.rTensorOne.injective
+
+theorem of_linearDisjoint_finite_left
+    (H : ∀ M' : Submodule R S, M' ≤ M → [Module.Finite R M'] → M'.LinearDisjoint N) :
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/LinearDisjoint.lean:218]: I think `M'.FG` makes more sense here.

File: Mathlib/LinearAlgebra/LinearDisjoint.lean [hunk 7]
```diff
@@ -0,0 +1,550 @@
...
+  exact H.injective.comp (Module.Flat.lTensor_preserves_injective_linearMap (M := M) _ hn)
+
+theorem of_map_linearIndependent_right {ι : Type*} (n : Basis ι R N)
+    (H : LinearMap.ker (mulRightMap M n) = ⊥) : M.LinearDisjoint N := by
+  -- need this instance otherwise `LinearMap.ker_eq_bot` does not work
+  letI : AddCommGroup (ι →₀ M) := Finsupp.instAddCommGroup
+  exact of_map_linearIndependent_right' M N n (LinearMap.ker_eq_bot.1 H)
+
+variable {M N} in
+theorem map_linearIndependent_mul_of_flat_left (H : M.LinearDisjoint N) [Module.Flat R M]
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/LinearDisjoint.lean:303]: What is the `map` referring to here?

File: Mathlib/LinearAlgebra/LinearDisjoint.lean [hunk 8]
```diff
@@ -0,0 +1,550 @@
...
+    (a b : ↥(M ⊓ N)) : ¬LinearIndependent R ![a, b] :=
+  H.not_linearIndependent_pair_of_commute_of_flat_right a b (mul_comm _ _)
+
+theorem not_linearIndependent_pair_of_flat (hf : Module.Flat R M ∨ Module.Flat R N)
+    (a b : ↥(M ⊓ N)) : ¬LinearIndependent R ![a, b] :=
+  H.not_linearIndependent_pair_of_commute_of_flat hf a b (mul_comm _ _)
+
+theorem not_linearIndependent_pair_of_flat' (hf : Module.Flat R M ∨ Module.Flat R N)
+    {a b : S} (ha : a ∈ M ⊓ N) (hb : b ∈ M ⊓ N) : ¬LinearIndependent R ![a, b] :=
+  H.not_linearIndependent_pair_of_commute_of_flat' hf ha hb (mul_comm _ _)
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/LinearDisjoint.lean:518]: Do we need to specialize these? I thought they were helper lemmas.

File: Mathlib/LinearAlgebra/LinearDisjoint.lean (hunk 5 above)
Comment (acmepjz) [reply Mathlib/LinearAlgebra/LinearDisjoint.lean:177]: Done.

File: Mathlib/LinearAlgebra/LinearDisjoint.lean (hunk 6 above)
Comment (acmepjz) [reply Mathlib/LinearAlgebra/LinearDisjoint.lean:218]: Done.

File: Mathlib/LinearAlgebra/LinearDisjoint.lean (hunk 7 above)
Comment (acmepjz) [reply Mathlib/LinearAlgebra/LinearDisjoint.lean:303]: It means that it maps two linearly independent families to a new linear independent family, which is the product of these two families. It's written in the module docstring in the beginning of the file:

>  if `M` and `N` are linearly disjoint, if one of `M` and `N` is flat, then for any family of
>  `R`-linearly independent elements `{ m_i }` of `M`, and any family of
>  `R`-linearly independent elements `{ n_j }` of `N`, the family `{ m_i * n_j }` in `S` is
>  also `R`-linearly independent.

I guess I should also copy the docstring to each function.

File: Mathlib/LinearAlgebra/LinearDisjoint.lean (hunk 8 above)
Comment (acmepjz) [reply Mathlib/LinearAlgebra/LinearDisjoint.lean:518]: Do you mean `flat` version vs `flat'` version? The `flat` is bundled version (i.e. `a b : ↥(M ⊓ N)`) while the `flat'` version is not (i.e. `a b : S` with the condition that they are `∈ M ⊓ N`). But maybe you are right, I checked the downstream code and it looks like that the `flat'` version is unused. Do you think it's a good idea to remove `flat'` version?

File: Mathlib/LinearAlgebra/LinearDisjoint.lean (hunk 7 above)
Comment (acmepjz) [reply Mathlib/LinearAlgebra/LinearDisjoint.lean:352]: Docstring added.

File: Mathlib/LinearAlgebra/LinearDisjoint.lean (hunk 8 above)
Comment (acmepjz) [reply Mathlib/LinearAlgebra/LinearDisjoint.lean]: `flat'` version removed.

**Review by erdOne — APPROVED** [review]
LGTM. Some small nitpicks on naming.

File: Mathlib/LinearAlgebra/LinearDisjoint.lean [hunk 9]
```diff
@@ -0,0 +1,619 @@
...
+
+/-- The `Submodule.LinearDisjoint.not_linearIndependent_pair_of_commute_of_flat_right`
+for commutative rings. -/
+theorem not_linearIndependent_pair_of_flat_right [Module.Flat R N]
+    (a b : ↥(M ⊓ N)) : ¬LinearIndependent R ![a, b] :=
+  H.not_linearIndependent_pair_of_commute_of_flat_right a b (mul_comm _ _)
+
+/-- The `Submodule.LinearDisjoint.not_linearIndependent_pair_of_commute_of_flat`
+for commutative rings. -/
+theorem not_linearIndependent_pair_of_flat (hf : Module.Flat R M ∨ Module.Flat R N)
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/LinearAlgebra/LinearDisjoint.lean:585]: It is not essential; there are some corollaries of it, stated using `Module.Flat R M ∨ Module.Flat R N`; it's always possible to rewrite the proof for splitting cases left and right.

But personally I think it's convenient if we have a `or`ed version, just like [IntermediateField.sup_toSubalgebra_of_isAlgebraic](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Adjoin.html#IntermediateField.sup_toSubalgebra_of_isAlgebraic) (sorry that is also contributed by me).

File: Mathlib/LinearAlgebra/LinearDisjoint.lean [hunk 10]
```diff
@@ -0,0 +1,619 @@
...
+  let i1 := TensorProduct.congr m.repr n.repr
+  let i := mulMap M N ∘ₗ (i0.trans i1.symm).toLinearMap
+  have : i = Finsupp.total (κ × ι) S R fun i ↦ m i.1 * n i.2 := by
+    ext x
+    simp [i, i0, i1, finsuppTensorFinsupp'_symm_single_eq_single_one_tmul]
+  simp_rw [← this, i, LinearMap.coe_comp, LinearEquiv.coe_coe, EquivLike.injective_comp] at H
+  exact ⟨H⟩
+
+/-- The zero module is linearly disjoint with any other submodules. -/
+theorem of_bot_left : (⊥ : Submodule R S).LinearDisjoint N :=
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/LinearAlgebra/LinearDisjoint.lean:226]: I think you're right; will change it.

File: Mathlib/LinearAlgebra/LinearDisjoint.lean (hunk 7 above)
Comment (acmepjz) [reply Mathlib/LinearAlgebra/LinearDisjoint.lean:352]: I see. Do you think it's a good idea to remove `map_` from the name of other results?

**Comment by erdOne** [comment]
Thanks!
maintainer merge
btw a diff of +600 is quite big for a PR and it makes this PR harder to review. Next time please try to split it up. (IMO +250 is max for a PR, and maybe +400 if it only touches one file, and this is probably on the high end among the consensus of all reviewers)

**Comment by erdOne** [comment]
maintainer merge

File: Mathlib/LinearAlgebra/LinearDisjoint.lean [hunk 11]
```diff
@@ -0,0 +1,619 @@
...
+The results with name containing "of_commute" also have corresponding specified versions
+assuming `S` is commutative.
+
+## Tags
+
+linearly disjoint, linearly independent, tensor product
+
+-/
+
+open scoped Classical TensorProduct
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/LinearDisjoint.lean:127]:
```suggestion
open scoped TensorProduct
```
A couple of proof need to be fixed.

File: Mathlib/LinearAlgebra/LinearDisjoint.lean [hunk 12]
```diff
@@ -0,0 +1,619 @@
...
+section Semiring
+
+variable [CommSemiring R] [Semiring S] [Algebra R S]
+
+variable (M N : Submodule R S)
+
+/-- Two submodules `M` and `N` in an algebra `S` over `R` are linearly disjoint if the natural map
+`M ⊗[R] N →ₗ[R] S` induced by multiplication in `S` is injective. -/
+@[mk_iff]
+protected structure LinearDisjoint : Prop where
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/LinearDisjoint.lean:146]: Why `protected`?

File: Mathlib/LinearAlgebra/LinearDisjoint.lean [hunk 13]
```diff
@@ -0,0 +1,619 @@
...
+  injective : Function.Injective (mulMap M N)
+
+variable {M N}
+
+/-- If `M` and `N` are linearly disjoint submodules, then there is the natural isomorphism
+`M ⊗[R] N ≃ₗ[R] M * N` induced by multiplication in `S`. -/
+protected def LinearDisjoint.mulMap (H : M.LinearDisjoint N) : M ⊗[R] N ≃ₗ[R] ↥(M * N) :=
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/LinearDisjoint.lean:153]:
```suggestion
protected def LinearDisjoint.mulMap (H : M.LinearDisjoint N) : M ⊗[R] N ≃ₗ[R] (M * N) :=
```

**Review by riccardobrasca — APPROVED** [review]
Thanks a lot for this contribution! I see a lot of `simp_rw`, is there a particular reason?

bors d+

File: Mathlib/LinearAlgebra/LinearDisjoint.lean (hunk 12 above)
Comment (acmepjz) [reply Mathlib/LinearAlgebra/LinearDisjoint.lean:146]: Because later we will have `Subalgebra.LinearDisjoint`, `IntermediateField.LinearDisjoint` and `Field.LinearDisjoint`.

**Comment by acmepjz** [comment]
> I see a lot of `simp_rw`, is there a particular reason?

I forgot. Probably because `rw` and `simp only` don't work for items inside something.

**Comment by riccardobrasca** [comment]
> > I see a lot of `simp_rw`, is there a particular reason?
> 
> I forgot. Probably because `rw` and `simp only` don't work for items inside something.

OK, no problem.
